US09227985B2
7-(3,5-Dimethylisoxazol-4-yl)-1-methyl-4-phenyl-5,6-dihydro-4H-imidazo[4,5,1-ij]quinolin-2(1H)-one
A solution of 7-(3,5-dimethylisoxazol-4-yl)-4-phenyl-5,6-dihydro-4H-imidazo[4,5,1-ij]quinolin-2(1H)-one (10.7 g, 0.031 mmol) in N,N-dimethylformamide (0.50 mL) was treated with cesium carbonate (20.2 g, 0.062 mmol) followed by methyl iodide (2.9 μL, 46.5 μmol) and stirred at room temperature for 16 h. Purification via preparative LCMS (XBridge C18 column, eluting with a gradient of acetonitrile/water containing 0.1% trifluoroacetic acid, at flow rate of 60 mL/min) gave the desired product (8.2 mg, 74%) as a racemic mixture. 1H NMR (400 MHz, CDCl3) δ 7.35-7.20 (m, 3H), 7.03 (d, J=6.9 Hz, 2H), 6.99-6.93 (m, 1H), 6.93-6.84 (m, 1H), 5.53 (s, 1H), 3.49 (s, 3H), 2.48-2.11 (m, 7H), 2.09-1.84 (m, 3H); LCMS calculated for C22H22N3O2 (M+H)+: m/z=360.2. found: 360.1.

reactant | 7-(3,5-dimethylisoxazol-4-yl)-4-phenyl-5,6-dihydro-4H-imidazo[4,5,1-ij]quinolin-2(1H)-one | 0.031 mmol, 10.7 g | CC1=NOC(=C1C1=C2CCC(N3C2=C(C=C1)NC3=O)C3=CC=CC=C3)C | C21H19N3O2
reactant | cesium carbonate | 0.062 mmol, 20.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl iodide | 46.5 μmol, 2.9 μL | CI | CH3I
solvent | N,N-dimethylformamide | 0.50 mL | CN(C=O)C | C3H7NO
product | 7-(3,5-Dimethylisoxazol-4-yl)-1-methyl-4-phenyl-5,6-dihydro-4H-imidazo[4,5,1-ij]quinolin-2(1H)-one | 8.2 mg, 74% | CC1=NOC(=C1C1=C2CCC(N3C2=C(C=C1)N(C3=O)C)C3=CC=CC=C3)C | C22H21N3O2
